US07355049B2
5-(3-Chloro-biphenyl-4-yloxymethyl)-furan-2-carboxylic acid was prepared using general procedure A from 2-chloro-4-phenylphenol (available from TCI America, Portland, Oreg.) and 5-chloromethylfuran-2-carboxylic acid methyl ester (available from Aldrich, Milwaukee, Wis., or from Maybridge plc, Tintagel, UK). Yield: 66 mg. Mass spectrum (ES) MH+=329.

reactant | 2-chloro-4-phenylphenol | ClC1=C(C=CC(=C1)C1=CC=CC=C1)O | C12H9ClO
reactant | 5-chloromethylfuran-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)CCl | C7H7ClO3
product | 5-(3-Chloro-biphenyl-4-yloxymethyl)-furan-2-carboxylic acid | ClC=1C=C(C=CC1OCC1=CC=C(O1)C(=O)O)C1=CC=CC=C1 | C18H13ClO4
